US05302720
Reaction of 4-methylthio-2-biphenylylisothiocyanate (11.5 g), ethanol (100 ml) and 25% aqueous ammonia solution (20 ml) at ambient temperature for 15 hours gave N-(4-methylthio-2-biphenylyl)thiourea as a colourless solid (m.p. 166°-167° C.).

reactant | 4-methylthio-2-biphenylylisothiocyanate | 11.5 g | CSC=1C=C(C(=CC1)C1=CC=CC=C1)N=C=S | C14H11NS2
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(4-methylthio-2-biphenylyl)thiourea | CSC1=CC(=C(C=C1)C1=CC=CC=C1)NC(=S)N | C14H14N2S2
